US08242153B2
In analogy to example 1d (S)-2-amino-4-(5-trifluoromethyl-pyridin-2-yloxy)-butan-1-ol was reacted with cyanogen bromide to give (S)-4-[2-(5-trifluoromethyl-pyridin-2-yloxy)-ethyl]-4,5-dihydro-oxazol-2-ylamine. White solid. MS (ISP): 276.2 ([M+H]+).

reactant | (S)-2-amino-4-(5-trifluoromethyl-pyridin-2-yloxy)-butan-1-ol | N[C@H](CO)CCOC1=NC=C(C=C1)C(F)(F)F | C10H13F3N2O2
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-[2-(5-trifluoromethyl-pyridin-2-yloxy)-ethyl]-4,5-dihydro-oxazol-2-ylamine | FC(C=1C=CC(=NC1)OCC[C@@H]1N=C(OC1)N)(F)F | C11H12F3N3O2
